US06964965B2
A 500 mL dry round bottom flask equipped with a magnetic stir bar was charged with 3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine (10.0 g, 45.18 mmol) and CH2Cl2 (220 mL). After the mixture was cooled with an ice bath, N-bromosuccinimide (8.84 g, 49.7 mmol) was added at once. The mixture was stirred at 0° C. for 30 minutes then quenched with saturated aq. NaHCO3, diluted with H2O and extrated twice with CH2Cl2. The organics were combined, dried with NaSO4, filtered and concentrated to 13.96 g of a brown oil. The crude was purified by Biotage MPLC in two batches (120 g columns, 2.5% ethyl acetate in heptane.) Like fractions were combined to give 11.57 g (85%) of 5-bromo-3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine as a yellow oil.

reactant | 3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine | 45.18 mmol, 10.0 g | C(C)C=1C(=NC(=CN1)CC)NC(CC)CC | C13H23N3
reactant | N-bromosuccinimide | 49.7 mmol, 8.84 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 220 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine | 11.57 g, 85% | BrC=1N=C(C(=NC1CC)NC(CC)CC)CC | C13H22BrN3
